US07910595B2
(S)-4-(4-Amino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-N-(1-phenyl-ethyl)-benzamide
To a solution of (S)-{4-[2-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-4-(1-phenyl-ethylcarbamoyl)-phenylsulfanyl]-phenyl}-carbamic acid tert-butyl ester (80 mg) in dichloromethane (1.6 mL) was added trifluoroacetic acid [TFA] (0.40 mL) dropwise at room temperature and the mixture was stirred at room temperature for 1 hour. The reaction mixture was portioned between AcOEt and aqueous K2CO3. The organic layer was separated, washed with H2O and brine, dried over MgSO4, and evaporated to pale yellow amorphous, which was solidified by trituration in i-Pr2O. The resulting solid was collected by filtration, washed with i-Pr2O, and dried at 40° C. overnight under reduced pressure to give the title compound as yellow crystal (57 mg, 85%). 1H-NMR (300 MHz, DMSO-d6) δ ppm: 1.34 (d, J=7.0 Hz, 6H), 1.45 (d, J=7.3 Hz, 3H), 3.23 (septet, J=7.0 Hz, 1H), 5.15 (quintet, J=7.3 Hz, 1H), 5.58 (s, 2H), 6.62 (d, J=8.4 Hz, 2H), 6.84 (d, J=8.5 Hz, 1H), 7.12 (d, J=8.4 Hz, 2H), 7.16-7.25 (m, 1H), 7.25-7.40 (m, 4H), 7.63 (d, J=8.4 Hz, 1H), 7.71 (dd, J=8.5, 1.8 Hz, 1H), 7.88 (d, J=1.8 Hz, 1H), 8.57 (s, 1H), 8.75 (d, J=7.3 Hz, 1H), 8.87 (d, J=8.5 Hz, 1H), 10.12 (s, 1H) MS ESI+ m/z: 535 (M+H)

reactant | (S)-{4-[2-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-4-(1-phenyl-ethylcarbamoyl)-phenylsulfanyl]-phenyl}-carbamic acid tert-butyl ester | 80 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)SC1=C(C=C(C=C1)C(N[C@@H](C)C1=CC=CC=C1)=O)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C)=O | C36H38N6O3S
reactant | trifluoroacetic acid | 0.40 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
product | (S)-4-(4-Amino-phenylsulfanyl)-3-(7-isopropyl-pyrido[2,3-d]pyrimidin-4-ylamino)-N-(1-phenyl-ethyl)-benzamide | 57 mg, 85% | NC1=CC=C(C=C1)SC1=C(C=C(C(=O)N[C@@H](C)C2=CC=CC=C2)C=C1)NC=1C2=C(N=CN1)N=C(C=C2)C(C)C | C31H30N6OS
